US09399623B2
6-Chloro-2-(3-hydroxy-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (92)
To a stirred solution of 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (30 mg, 0.07 mmol, 1.00 eq) in dry THF (3 mL) was added NaBH4 (5.34 mg, 0.14 mmol, 2.00 eq) at 0° C. and left to stir at RT for 1 h. The reaction mixture was quenched with water (5 mL) and extracted with EtOAc (15 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to afford crude product which was purified using preparative HPLC to afford the title compound as (10.00 mg, 0.02 mmol, 32.9%) off-white gum. 1H NMR (400 MHz, DMSO-d6): δ 8.26-8.39 (bs, 1H), 7.98-8.20 (m, 1H), 7.53-7.72 (m, 2H), 6.53-6.71 (m, 1H), 4.42 (d, J=5.52 Hz, 1H), 3.70 (d, J=3.83 Hz, 1H), 3.48-3.51 (m, 2H), 2.08-2.37 (m, 6H), 1.69-2.05 (m, 8H), 1.26-1.49 (m, 2H). m/z: 423 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | 0.07 mmol, 30 mg, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O2
reactant | NaBH4 | 0.14 mmol, 5.34 mg, 2.00 eq | [BH4-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Chloro-2-(3-hydroxy-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)O)F | C22H25ClF2N2O2
